US06617325B1
d. methyl 2-methyl-2-phenyl-5-{4-[(biphenyl-2-carbonyl)-amino]-piperidin-1-yl}-pentanecarboxylate
A solution of 0.634 g (0.002 mol) of biphenyl-2-carboxylic acid-piperidin-4-ylamide, 0.5 g (1.75 mmol) of methyl 5-bromo-2-methyl-2-phenyl-pentanecarboxylate and 1 ml (0.007 mol) of triethylamine are dissolved in 3 ml dimethylformamide. The mixture is stirred for 14 hours at 80° C. Then the reaction mixture is poured onto water and extracted with ethyl acetate. The organic phase is dried over sodium sulphate. After column chromatography on silica gel (eluant: dichloromethane/methanol=10:1) colourless crystals remain.

reactant | biphenyl-2-carboxylic acid-piperidin-4-ylamide | 0.002 mol, 0.634 g | N1CCC(CC1)NC(=O)C=1C(=CC=CC1)C1=CC=CC=C1 | C18H20N2O
reactant | methyl 5-bromo-2-methyl-2-phenyl-pentanecarboxylate | 1.75 mmol, 0.5 g | BrCCCC(CC(=O)OC)(C1=CC=CC=C1)C | C14H19BrO2
reactant | triethylamine | 0.007 mol, 1 ml | C(C)N(CC)CC | C6H15N
solvent | dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
product | methyl 2-methyl-2-phenyl-5-{4-[(biphenyl-2-carbonyl)-amino]-piperidin-1-yl}-pentanecarboxylate | CC(CC(=O)OC)(CCCN1CCC(CC1)NC(=O)C=1C(=CC=CC1)C1=CC=CC=C1)C1=CC=CC=C1 | C32H38N2O3
